US07109229B2
(a). 7-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole
Sodium hydride in mineral oil (60% by wt., 0.62 g; 15.5 mmol) was washed with hexanes and suspended in DMF (40 mL). SEM-Cl (2.0 mL, 11.3 mmol) was added followed by a solution of 7-bromoindole in DMF (15 mL) dropwise over 5 min. The resultant white suspension was stirred overnight at room temperature and then the reaction was quenched with saturated aqueous NaHCO3. The mixture was poured into EtOAc and the organic layer was separated and washed with pH 7 buffer, saturated aqueous NaHCO3, brine dried (MgSO4) and concentrated to a light yellow oil. Flash chromatography (2 to 5% EtOAc/hexanes) afforded the title compound as a colorless oil (2.58 g, 79%). 1H NMR (400 MHz, DMSO-d6) 7.58–7.61 (m, 2H), 7.36 (d, J=8 Hz, 1H), 6.70 (dd, J=8, 8 Hz, 1H), 6.55 (d, J=3 Hz, 1H), 5.80 (2, 2H), 3.45 (t, J=8 Hz, 2H), 0.80 (t, J=8 Hz, 2H), 0.01 (s, 9H). 13C NMR (75.7 MHz, DMSO-d6) 132.58, 132.31, 131.92, 126.69, 121.19, 120.26, 103.50, 102.03, 75.69, 64.45, 17.18, −1.46. MS (FD+, m/z) 327, 325 (M+). HRMS 326.0570 (M++1, calcd for C14H21NOSiBr 326.0576).

reactant | SEM-Cl | 11.3 mmol, 2.0 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | 7-bromoindole | BrC=1C=CC=C2C=CNC12 | C8H6BrN
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 7-Bromo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole | 2.58 g, 79% | BrC=1C=CC=C2C=CN(C12)COCC[Si](C)(C)C | C14H20BrNOSi
